US04173633
The solution of 2.2 g of 1-[2-(N-isopropyl-N-heptylamino)propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one, RR racemate in 18 ml of methylene chloride, precooled in a dry ice-acetone bath, is added to 31.3 ml of a similarly cooled 10% solution of boron tribromide in methylene chloride. The mixture is allowed to reach room temperature and is stirred at said temperature overnight. It is cooled in an ice bath, neutralized to pH=9 with 75 ml of saturated aqueous sodium carbonate and stirred at room temperature for 3.5 hours. The methylene chloride layer is separated, washed with water, dried and evaporated. The residue is suspended in diethyl ether, the crystallized material is collected and recrystallized from ethyl acetate to give the 1-[2-(N-isopropyl-N-heptylamino)propyl]-9-hydroxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2one, RR racemate melting at 144°-146°.

reactant | 1-[2-(N-isopropyl-N-heptylamino)propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one | 2.2 g | C(C)(C)N(CCCCCCC)C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C28H44N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium carbonate | 75 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 18 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(N-isopropyl-N-heptylamino)propyl]-9-hydroxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2one | C(C)(C)N(CCCCCCC)C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)O)=O)C | C27H42N2O2
